US07553845B2
Methyl [3-(4-amino-3-methoxybenzoyl)-6-(2-ethoxy-2-oxoethoxy)-2-methylindolizin-1-yl]carboxylate
This compound is obtained by carrying out the procedure according to the preparation described in the example above, by alkylating methyl [3-(4-amino-3-methoxybenzoyl)-6-hydroxy-2-methylindolizin-1-yl]carboxylate with ethyl bromoacetate.

reactant | methyl [3-(4-amino-3-methoxybenzoyl)-6-hydroxy-2-methylindolizin-1-yl]carboxylate | NC1=C(C=C(C(=O)C2=C(C(=C3C=CC(=CN23)O)C(=O)OC)C)C=C1)OC | C19H18N2O5
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Methyl [3-(4-amino-3-methoxybenzoyl)-6-(2-ethoxy-2-oxoethoxy)-2-methylindolizin-1-yl]carboxylate | NC1=C(C=C(C(=O)C2=C(C(=C3C=CC(=CN23)OCC(=O)OCC)C(=O)OC)C)C=C1)OC | C23H24N2O7
